Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][c:8]1[Cl:9])=[O:10].[CH3:11][CH2:12][O:13][C:14](=[O:15])[C@@H:16]([NH2:17])[CH2:18][c:19]1[cH:20][cH:21][c:22]([N:23]2[C:24](=[O:25])[c:26]3[cH:27][cH:28][cH:29][c:30]([CH3:31])[c:32]3[C:33]2=[O:34])[cH:35][cH:36]1>>[C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][c:8]1[Cl:9])(=[O:10])[NH:17][C@H:16]([C:14]([O:13][CH2:12][CH3:11])=[O:15])[CH2:18][c:19]1[cH:20][cH:21][c:22]([N:23]2[C:24](=[O:25])[c:26]3[cH:27][cH:28][cH:29][c:30]([CH3:31])[c:32]3[C:33]2=[O:34])[cH:35][cH:36]1,[CH3:11][CH2:12][O:13][C:14](=[O:15])[C@@H:16]([NH2:17])[CH2:18][c:19]1[cH:20][cH:21][c:22]([N:23]2[C:24](=[O:25])[c:26]3[cH:27][cH:28][cH:29][c:30]([CH3:31])[c:32]3[C:33]2=[O:34])[cH:35][cH:36]1.[OH:101][C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][c:8]1[Cl:9])=[O:10].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][c:8]1[Cl:9])(=[O:10])[NH:17][C@H:16]([C:14]([O:13][CH2:12][CH3:11])=[O:15])[CH2:18][c:19]1[cH:20][cH:21][c:22]([N:23]2[C:24](=[O:25])[c:26]3[cH:27][cH:28][cH:29][c:30]([CH3:31])[c:32]3[C:33]2=[O:34])[cH:35][cH:36]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (17, 1), ([1, 10], 10), (303, 17.1), ([17.1, 17], 17), (10, [10, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][F:3])[CH2:4][F:5].[CH3:6][C:7]1([CH3:8])[CH2:9][CH2:10][C:11]([CH2:12][N:13]2[CH2:14][CH2:15][N:16]([c:17]3[cH:18][cH:19][c:20]([C:21](=[O:22])[NH:23][S:24](=[O:25])(=[O:26])[c:27]4[cH:28][cH:29][c:30]([NH:31][CH2:32][CH:33]5[CH2:34][NH:35][CH2:36]5)[c:37]([N+:38](=[O:39])[O-:40])[cH:41]4)[c:42]([O:43][c:44]4[cH:45][n:46][c:47]5[nH:48][cH:49][cH:50][c:51]5[cH:52]4)[cH:53]3)[CH2:54][CH2:55]2)=[C:56]([c:57]2[cH:58][cH:59][c:60]([Cl:61])[cH:62][cH:63]2)[CH2:64]1>>[CH:1]([CH2:2][F:3])([CH2:4][F:5])[N:35]1[CH2:34][CH:33]([CH2:32][NH:31][c:30]2[cH:29][cH:28][c:27]([S:24]([NH:23][C:21]([c:20]3[cH:19][cH:18][c:17]([N:16]4[CH2:15][CH2:14][N:13]([CH2:12][C:11]5=[C:56]([c:57]6[cH:58][cH:59][c:60]([Cl:61])[cH:62][cH:63]6)[CH2:64][C:7]([CH3:6])([CH3:8])[CH2:9][CH2:10]5)[CH2:55][CH2:54]4)[cH:53][c:42]3[O:43][c:44]3[cH:45][n:46][c:47]4[nH:48][cH:49][cH:50][c:51]4[cH:52]3)=[O:22])(=[O:25])=[O:26])[cH:41][c:37]2[N+:38](=[O:39])[O-:40])[CH2:36]1,[CH3:6][C:7]1([CH3:8])[CH2:9][CH2:10][C:11]([CH2:12][N:13]2[CH2:14][CH2:15][N:16]([c:17]3[cH:18][cH:19][c:20]([C:21](=[O:22])[NH:23][S:24](=[O:25])(=[O:26])[c:27]4[cH:28][cH:29][c:30]([NH:31][CH2:32][CH:33]5[CH2:34][NH:35][CH2:36]5)[c:37]([N+:38](=[O:39])[OH:40])[cH:41]4)[c:42]([O:43][c:44]4[cH:45][n:46][c:47]5[nH:48][cH:49][cH:50][c:51]5[cH:52]4)[cH:53]3)[CH2:54][CH2:55]2)=[C:56]([c:57]2[cH:58][cH:59][c:60]([Cl:61])[cH:62][cH:63]2)[CH2:64]1.[O:101]=[C:1]([CH2:2][F:3])[CH2:4][F:5].[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]([CH2:2][F:3])([CH2:4][F:5])[N:35]1[CH2:34][CH:33]([CH2:32][NH:31][c:30]2[cH:29][cH:28][c:27]([S:24]([NH:23][C:21]([c:20]3[cH:19][cH:18][c:17]([N:16]4[CH2:15][CH2:14][N:13]([CH2:12][C:11]5=[C:56]([c:57]6[cH:58][cH:59][c:60]([Cl:61])[cH:62][cH:63]6)[CH2:64][C:7]([CH3:6])([CH3:8])[CH2:9][CH2:10]5)[CH2:55][CH2:54]4)[cH:53][c:42]3[O:43][c:44]3[cH:45][n:46][c:47]4[nH:48][cH:49][cH:50][c:51]4[cH:52]3)=[O:22])(=[O:25])=[O:26])[cH:41][c:37]2[N+:38](=[O:39])[OH:40])[CH2:36]1,reductive_amination,"[(35, 1), ([1, 101], 301), (101, 35.1), ([35.1, 35], 35), (35, [35, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 35], 35)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][C:11]([CH3:12])([NH2:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[NH:13][C:11]([CH3:10])([CH3:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][C:11]([CH3:12])([NH2:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[NH:13][C:11]([CH3:10])([CH3:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
